US09326973B2
A mixture of ethyl 1-((2-hydroxyethyl)amino)cyclopropanecarboxylate (0.180 g, 1.039 mmol) and CDI (0.177 g, 1.091 mmol) in THF (5 mL) was stirred at room temperature for 15 h, then heated to reflux for 15 h. The solvent was removed and the residue was purified with silica gel chromatography to yield ethyl 1-(2-oxooxazolidin-3-yl)cyclopropanecarboxylate (0.2 g). A solution of LiOH (0.048 g) in water (3 mL) was added to a solution of ethyl 1-(2-oxooxazolidin-3-yl)cyclopropanecarboxylate (0.2 g, 1.004 mmol) in THF (5 mL) and the resulting mixture was stirred vigorously at rt for 16 h. The reaction mixture was then diluted with water and washed with EtOAc. The aqueous layer was then acidified with 1N HCl and extracted with EtOAc. The combined organic layers were dried (MgSO4), filtered and concentrated to yield Cap L-5 (60 mg). 1H NMR (500 MHz, DMSO-d6) ppm 12.83 (br. s., 1H), 4.30-4.20 (m, 2H), 3.65-3.56 (m, 2H), 1.41-1.33 (m, 2H), 1.25-1.19 (m, 2H).

reactant | ethyl 1-((2-hydroxyethyl)amino)cyclopropanecarboxylate | 1.039 mmol, 0.180 g | OCCNC1(CC1)C(=O)OCC | C8H15NO3
reactant | CDI | 1.091 mmol, 0.177 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | ethyl 1-(2-oxooxazolidin-3-yl)cyclopropanecarboxylate | 0.2 g | O=C1OCCN1C1(CC1)C(=O)OCC | C9H13NO4
